US06180622B2
b) (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[(3S,5R)-5-(imidazo[5,1-b]thiazol-5-yl)methylpyrrolidin-3-yl]thio-1-methylcarbapen-2-em-3-carboxylic acid
Tetrakis(triphenylphosphine)palladium(0) (7.0 mg) is added to a solution of 34.5 mg of allyl(1R,5S,6S)-2-[(3S,5R)-1-allyloxycarbonyl-5-(imidazo[5,1-b]thiazol-5-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate and 0.040 ml of N-methylaniline in 1.2 ml of dry dichloromethane in an argon atmosphere at room temperature for 60 min. Distilled water (3 ml) is added thereto, the mixture is washed three times with 6 ml of ethyl acetate, and the aqueous layer is filtered, followed by concentration under reduced pressure and freeze drying to give 16.7 mg of a colorless flocculent material. The colorless flocculent material is purified by column chromatography on Cosmosil 40C18-PREP (water-methanol) to give 9.8 mg of the title compound as a colorless flocculent material.

reactant | allyl(1R,5S,6S)-2-[(3S,5R)-1-allyloxycarbonyl-5-(imidazo[5,1-b]thiazol-5-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 34.5 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=NC=C2SC=CN21)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C27H32N4O6S2
reactant | N-methylaniline | 0.040 ml | CNC1=CC=CC=C1 | C7H9N
reactant | water | 3 ml | O | H2O
solvent | dichloromethane | 1.2 ml | ClCCl | CH2Cl2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 7.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[(3S,5R)-5-(imidazo[5,1-b]thiazol-5-yl)methylpyrrolidin-3-yl]thio-1-methylcarbapen-2-em-3-carboxylic acid | 16.7 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@@H]2CN[C@@H](C2)CC2=NC=C3SC=CN32)C(=O)O)C1=O | C20H24N4O4S2
